### PR TITLE
Primitive operations proof refactoring

### PR DESCRIPTION
**Pull request by mkarup**
Refactor proof code for primitives to make it easier to verify the remaining operations

### CODE REVIEW

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 1]
```diff
@@ -1268,15 +925,15 @@ Inductive repr_val_LambdaANF_Wasm : LambdaANF.cps.val -> store_record -> modulei
...
     sglob_val sr inst global_mem_ptr = Some (VAL_num (VAL_int32 (N_to_i32 gmp))) ->
     (-1 < Z.of_N gmp < Wasm_int.Int32.modulus)%Z ->
     (addr+8 <= gmp)%N ->
     (exists n, addr = 2 * n)%N ->
     smem sr inst = Some m ->
-    wasm_i64_prim_related w p ->
-    load_i64 m addr = Some (VAL_int64 w) ->
-    repr_val_LambdaANF_Wasm (Vprim p) sr inst (Val_ptr addr)
+    p = primInt n ->
+    load_i64 m addr = Some (VAL_int64 (Z_to_i64 (to_Z n))) ->
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: the `to_Z `is `Uint63.to_Z` I presume? If so, please use the latter.
What about  `p = primInt n` is that a relict?

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 2]
```diff
@@ -3772,277 +3429,43 @@ Proof.
...
+      (* Constructor tags (bools, comparison, carry and prod) used by prim ops *)
+      /\ M.get true_tag cenv = Some (Build_ctor_ty_info (Common.BasicAst.nNamed "true") (Common.BasicAst.nNamed "bool") it_bool 0%N 0) 
+      /\ M.get false_tag cenv = Some (Build_ctor_ty_info (Common.BasicAst.nNamed "false") (Common.BasicAst.nNamed "bool") it_bool 0%N 1)
+      /\ M.get eq_tag cenv = Some (Build_ctor_ty_info (Common.BasicAst.nNamed "Eq") (Common.BasicAst.nNamed "comparison") it_comparison 0%N 0)
+      /\ M.get lt_tag cenv = Some (Build_ctor_ty_info (Common.BasicAst.nNamed "Lt") (Common.BasicAst.nNamed "comparison") it_comparison 0%N 1)
+      /\ M.get gt_tag cenv = Some (Build_ctor_ty_info (Common.BasicAst.nNamed "Gt") (Common.BasicAst.nNamed "comparison") it_comparison 0%N 2)
+      /\ M.get c0_tag cenv = Some (Build_ctor_ty_info (Common.BasicAst.nNamed "C0") (Common.BasicAst.nNamed "carry") it_carry 1%N 0)
+      /\ M.get c1_tag cenv = Some (Build_ctor_ty_info (Common.BasicAst.nNamed "C1") (Common.BasicAst.nNamed "carry") it_carry 1%N 1)
+      /\ M.get pair_tag cenv = Some (Build_ctor_ty_info (Common.BasicAst.nNamed "pair") (Common.BasicAst.nNamed "prod") it_prod 1%N 0).
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: Consider using the tag (ordinal) variables you defined in the new primops file?

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 3]
```diff
@@ -4909,79 +4332,33 @@ Proof.
...
-  replace n with 0%Z in * by (apply Wasm_int.Int64.repr_inv; try (simpl_modulus; now simpl)).
-  replace i with i' in * by now apply inj_pair2 in Hi.
-  apply Z.eqb_eq in Heq.
-  rewrite -to_Z_0 in  Heq.
-  now apply to_Z_inj.
-Qed.
-
-Lemma primitive_operation_reduces : forall lenv pfs state s f m fds f' (x : var) (x' : localidx) (p : prim) p'
+(* Helper tactic to solve the cases for simple binary arithmetic operators like add, sub, mul etc. *)
+Local Ltac solve_arith_op_aux v aexp H1 H2 H3 H4 :=
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: Better names for H1-H4, here with the tactic it would be helpful. (I know we don't do it everywhere.)

File: theories/CodegenWasm/LambdaANF_to_Wasm_primitives.v [hunk 4]
```diff
@@ -1,23 +1,55 @@
...
+Opaque Uint63.to_Z.
+
+Section Primitives.
+
+Variables global_mem_ptr glob_tmp1 glob_tmp2 glob_tmp3 glob_tmp4 : globalidx.
 
-Require Import MSets.MSetAVL.
-From Coq Require Import FMapAVL.
-Require Import POrderedType.
+Variables true_tag false_tag eq_tag lt_tag gt_tag c0_tag c1_tag pair_tag : ctor_tag.
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_primitives.v]: relict?

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 5]
```diff
@@ -3772,277 +3429,43 @@ Proof.
...
+  destruct vs=>//. destruct vs; destruct v0=>//; destruct p =>//; destruct x =>//.
+  destruct H0=>//. now exists p.
+  destruct vs; destruct v1=>//; destruct p0 =>//; destruct x =>//.
+  destruct H0. now exists p. destruct H0. now exists p0. destruct H0.
+  destruct vs; destruct v0=>//; destruct p1 =>//; destruct x =>//.
+  destruct H0. now exists p. destruct H0. now exists p0. destruct H0. now exists p1. destruct H0.
+Qed.
 
 (* prim_funs_wellformed *)
 Definition prim_funs_env_wellformed (penv : prim_env) (prim_funs : M.t (list val -> option val)) : Prop :=
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v]: Consider moving the assumptions to the primitives file as well. (not for this PR)

**Comment by womeier** [comment]
Could you also fix the formatting in the primitives file (diveucl_21_instrs,  tail0_instrs, diveucl_instrs, mulc_instrs, compare_instrs, head0_instrs, addmuldiv_instrs)?

File: theories/CodegenWasm/LambdaANF_to_Wasm_primitives.v (hunk 4 above)
Comment (mkarup) [reply theories/CodegenWasm/LambdaANF_to_Wasm_primitives.v]: I added them as section variables to avoid having to explicitly pass them around for the wrapper functions (from line 620). 
Do you think it would be better to add them as function parameters instead?
The only wrapper function that is referred to from the other files is `apply_LambdaANF_primInt_operator`, so whether section variables or explicit parameters are used, either way you have to pass all the tags when that is called.

Comment (womeier) [reply theories/CodegenWasm/LambdaANF_to_Wasm_primitives.v]: ah I see. I confused tags and ordinals. Could you add a comment here, regarding the difference?

Could this be avoided by moving prim_funs_env_wellformed to the primitives file?

Comment (mkarup) [reply theories/CodegenWasm/LambdaANF_to_Wasm_primitives.v]: what is it that you want to avoid? Having the section variables in the first place or...?
